US08124629B2
A 1.0 M solution of diisobutylaluminum hydride in toluene (44 mL, 44 mmol) was added slowly drop-wise to a 0° C. solution of methyl 4-(methanesulfonylmethyl)benzoate (4.00 g, 17.5 mmol) and toluene (220 mL). After the addition was complete, the reaction mixture was warmed to room temperature, then stirred at room temperature for 16 hours. After this time, thin-layer chromatography indicated some starting material to remain. The reaction mixture was cooled to 0° C., then additional 1.0 M diisobutylaluminum hydride in toluene (44 mL, 44 mmol) was added slowly drop-wise to the cold reaction mixture. The reaction mixture was warmed to room temperature, and then stirred for 20 minutes. The reaction mixture was again cooled to 0° C. Ethyl acetate (50 mL) was added followed by methanol (1 mL). The reaction mixture was allowed to stand for 6 minutes at 0° C., during which time the mixture became cloudy and thick. A saturated aqueous solution of sodium potassium tartrate was added, and the heterogeneous mixture was warmed to room temperature. Water and additional ethyl acetate (50 mL) were added. The organic phase was separated, dried over MgSO4, filtered, and concentrated to give 2.18 g (62%) of (4-methane-sulfonylmethyl-phenyl)-methanol as a white solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 44 mmol, 44 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 4-(methanesulfonylmethyl)benzoate | 17.5 mmol, 4.00 g | CS(=O)(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H12O4S
reactant | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 44 mmol, 44 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | methanol | 1 mL | CO | CH4O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (4-methane-sulfonylmethyl-phenyl)-methanol | 2.18 g, 62% | CS(=O)(=O)CC1=CC=C(C=C1)CO | C9H12O3S
